US07276516B2
3-Cyclopropyl-1-triisopropylsilanyl-1H-indole
Dissolve 3-bromo-1-triisopropylsilanyl-1H-indole (1.02 g, 2.89 mmol), cyclopropylboronic acid (259 mg, 3.01 mmol) and K3PO4 (1.8 g, 8.5 mmol) in a mixture of toluene (20 mL) and water (0.8 mL). Add tricyclohexyl-phosphane (86 mg, 0.31 mmol) and palladium(II) acetate (50 mg, 0.22 mmol) and stir the mixture at 70° C. for 3 h. Filter the mixture through celite and wash the solids with EtOAc (30 mL). Collect and concentrate the filtrate and purify the residue by flash chromatography, using a linear gradient of 100% hexanes to 10% EtOAc/hexanes, to give the title compound as a clear oil 765 mg (84%): MS (ES) 314.1 (M+1)+.

reactant | 3-bromo-1-triisopropylsilanyl-1H-indole | 2.89 mmol, 1.02 g | BrC1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | cyclopropylboronic acid | 3.01 mmol, 259 mg | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 8.5 mmol, 1.8 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexyl-phosphane | 0.31 mmol, 86 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.8 mL | O | H2O
catalyst | palladium(II) acetate | 0.22 mmol, 50 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Cyclopropyl-1-triisopropylsilanyl-1H-indole | 765 mg, 84% | C1(CC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C20H31NSi
